US06583135B2
3-Benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (15.0 g, 40.6 mmol) was combined with dioxane (350 mL) at rt under N2. Et3N (34.0 mL, 24.7 g, 244 mmol) and 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (11.4 mL, 9.37 g, 73.2 mmol) were added to the mixture by syringe. trans-Dichlorobis(triphenylphosphine)palladium(II) (1.44 g, 2.04 mmol) was added and Ar was bubbled through the reaction mixture for 20 min. The reaction mixture was refluxed under N2 for 18 h. The cooled reaction mixture was concentrated and the residue was combined with EtOAc (500 mL) and H2O (200 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated. The crude product (22.9 g) was recrystallized from CH3OH (50 mL) to give 3-benzoyl-10-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (11.7 g) in 69% yield. MS (ESI+) for C25H29BN2O3 m/z 417.2 (M+H)+.

reactant | 3-Benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 40.6 mmol, 15.0 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | Et3N | 244 mmol, 34.0 mL, 24.7 g | CCN(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 73.2 mmol, 11.4 mL, 9.37 g | CC1(OBOC1(C)C)C | C6H13BO2
catalyst | trans-Dichlorobis(triphenylphosphine)palladium(II) | 2.04 mmol, 1.44 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
product | 3-benzoyl-10-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 11.7 g, 69% yield | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)B1OC(C(O1)(C)C)(C)C | C25H29BN2O3
